US06506901B2
Step A: N-Octyl-N′-phenylurea
A solution of octyl amine (22.79 g, 176 mmol) and phenyl isocyanate (21 g, 176 mmol) in THF (200 ml) at 0° C. was stirred for 2 hours. The solvent was evaporated in vacuo and the residue was triturated with hexane to give 43 g of final product (173 mmol).

reactant | octyl amine | 176 mmol, 22.79 g | C(CCCCCCC)N | C8H19N
reactant | phenyl isocyanate | 176 mmol, 21 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-Octyl-N′-phenylurea | 173 mmol, 43 g | C(CCCCCCC)NC(=O)NC1=CC=CC=C1 | C15H24N2O
